US08580533B2
1. Synthesis of 4 hydroxymethyl-2-methyl-2-undecyl-1,3-dioxolane (1, 2)
Firstly, 100 g (0.5 mol) of 2-tridecanone (Aldrich P/N 17,283-9), 56 g (0.6 mol) of glycerol (Aldrich P/N 32,00-5), 200 mL of benzene, and 1.8 grams of p-toluenesulfonic acid (Aldrich P/N 40,2885) were placed in a 500 mL round bottom flask fitted with a Dean Stark apparatus. The mixture was heated to reflux with stirring until no further separation of water appeared. The reaction mixture was cooled to room temperature and washed successively with a 100 mL portion of 5% sodium carbonate solution and three 100 mL portions of water. The organic layer was dried over sodium sulfate, filtered and the benzene was removed with a rotary evaporator. The residual oil was fractionated by distillation under reduced pressure to give the desired product (b.p. 140° C./0.3 mm Hg). The identity of the product was confirmed by 1H NMR in CDCl3.

reactant | 2-tridecanone | 0.5 mol, 100 g | CC(CCCCCCCCCCC)=O | C13H26O
reactant | glycerol | 0.6 mol, 56 g | OCC(O)CO | C3H8O3
reactant | benzene | 200 mL | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | 1.8 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | hydroxymethyl-2-methyl-2-undecyl-1,3-dioxolane | OCC1OC(OC1)(CCCCCCCCCCC)C | C16H32O3
